US07772269B2
Step 1: Preparation of 4-{3-[(4-acetyl-3-fluorophenyl)thio]phenyl}tetrahydro-2H-pyran-4-carboxamide
2,4-Difluoroacetophenone (0.40 g, 2.54 mmols), 4-{3-[(triisopropylsilyl)thio]phenyl}-tetra-hydro-2H-pyran-4-carboxamide (1.0 g, 2.54 mmols), tetrabutylammonium fluoride (0.66 g, 2.54 mmols), and potassium tert-butoxide (1.0 M in THF, 2.54 ml, 2.54 mmols) were added to anhydrous toluene (10 ml). The mixture was warmed to 90 degrees Celcius and stirred for 4 hours. After cooling to room temperature, ethyl acetate was added (100 ml) along with 1.0 N HCl (6 ml). The mixture was then stirred for 30 minutes and a beige precipate was collected by suction filtration. The crude product was purified further on silica gel eluting with a 70:30 mixture of methylene chloride and acetone. The appropriate fractions were concentrated to a light brown solid, (0.61 g, 64%).

reactant | 2,4-Difluoroacetophenone | 2.54 mmols, 0.40 g | CC(=O)C1=C(C=C(C=C1)F)F | C8H6F2O
reactant | 4-{3-[(triisopropylsilyl)thio]phenyl}-tetra-hydro-2H-pyran-4-carboxamide | 2.54 mmols, 1.0 g | C(C)(C)[Si](SC=1C=C(C=CC1)C1(CCOCC1)C(=O)N)(C(C)C)C(C)C | C21H35NO2SSi
reactant | tetrabutylammonium fluoride | 2.54 mmols, 0.66 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | potassium tert-butoxide | 2.54 mmols, 1.0 M, 2.54 ml | CC(C)([O-])C.[K+]
reactant | HCl | 1.0 N, 6 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-{3-[(4-acetyl-3-fluorophenyl)thio]phenyl}tetrahydro-2H-pyran-4-carboxamide | C(C)(=O)C1=C(C=C(C=C1)SC=1C=C(C=CC1)C1(CCOCC1)C(=O)N)F | C20H20FNO3S
